US08455477B2
4-bromo-1,5-naphthyridine (99 mg, 0.47 mmol), copper(I) iodide (4.5 mg, 0.024 mmol) and sodium iodide (142 mg, 0.947 mmol) were combined into one vial fitted with a Teflon septum. The vial was flushed with nitrogen and 1,4-dioxane (4 ml) was added. After sparging with nitrogen for 5 minutes, rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (7.5 μl, 0.047 mmol) was added and the reaction was heated to 100° C. for 12 hours. The mixture was cooled to ambient temperature, and saturated aqueous ammonium chloride (2 ml) was added to quench the reaction. After stirring for 10 minutes, the mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted with ethyl acetate one more time. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/dichloromethane gradient) to afford 4-iodo-1,5-naphthyridine.

reactant | 4-bromo-1,5-naphthyridine | 0.47 mmol, 99 mg | BrC1=CC=NC2=CC=CN=C12 | C8H5BrN2
reactant | sodium iodide | 0.947 mmol, 142 mg | [I-].[Na+]
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.047 mmol, 7.5 μl | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.024 mmol, 4.5 mg | [Cu]I
product | 4-iodo-1,5-naphthyridine | IC1=CC=NC2=CC=CN=C12 | C8H5IN2
